* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_3
* Fitness: 0.5980
*
* --- Active Constraints ---
* _comment: Phase 2: 9V to 80V Specialized (Boost)
* vin_min: 8
* vin_max: 10
* vout_target: 80
* efficiency_target: 0.86
* power_in: 80
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 35.916610
* efficiency: 1.000000
* total_volume_cm3: 21.880000
* total_components: 4
* ============================

* 8V to 80V Boost, 80W
Vin in 0 8
L1 in sw 47u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 80
Vgate gate 0 PULSE(0 12 0 1n 1n 6.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end